US04057647
0.44 g. of 1-hydroxy-3-butanone in 40 ml. of ether is added dropwise, at 20° stirred Grignard solution obtained from 2.69 g. of 4-bromo-2',4'-difluorobiphenyl and 0.24 g. of magnesium in 100 ml. of ether. The mixture is stirred for 2 hours more and the resulting alcoholate is decomposed with dilute sulfuric acid. The ether phase is worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol, m.p. 82°-84°.

reactant | 1-hydroxy-3-butanone | OCCC(C)=O | C4H8O2
reactant | 4-bromo-2',4'-difluorobiphenyl | BrC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C12H7BrF2
reactant | magnesium | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
product | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
